US08865736B2
3-(5-bromo-thiazolo[5,4-b]pyridin-2-ylmethoxy)-2,6-difluoro-benzamide
To a solution of 5-bromo-2-bromomethyl-thiazolo[5,4-b]pyridine (2.0 g, 6.493 mmol) in 10 ml of anhydrous DMF was added 2,6-Difluoro-3-hydroxy-benzamide (1.01 g, 5.84 mmol) and potassium carbonate (3.09 g, 22.72 mmol). The reaction mixture was stirred at 25° C. for 24 h under nitrogen atmosphere. The reaction mixture was evaporated to dryness under reduced pressure and the residue was purified by column chromatography on silica (60-120 M) using ethyl acetate/hexane (50:50) as the eluent to provide the title compound (1.80 g, 69%). 1H NMR (DMSO-d6, 400 MHz): δ 5.72 (s, 2H), 7.12 (t, J=7.60 Hz, 1H), 7.39 (m, 1H), 7.90 (br s, 1H), 8.18 (br s, 1H) and 8.80 (m, 2H). MS ES+ (402.08), HPLC (method I) Rt=15.50 min.

reactant | 5-bromo-2-bromomethyl-thiazolo[5,4-b]pyridine | 6.493 mmol, 2.0 g | BrC1=CC=C2C(=N1)SC(=N2)CBr | C7H4Br2N2S
reactant | 2,6-Difluoro-3-hydroxy-benzamide | 5.84 mmol, 1.01 g | FC1=C(C(=O)N)C(=CC=C1O)F | C7H5F2NO2
reactant | potassium carbonate | 22.72 mmol, 3.09 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-(5-bromo-thiazolo[5,4-b]pyridin-2-ylmethoxy)-2,6-difluoro-benzamide | 1.80 g, 69% | BrC1=CC=C2C(=N1)SC(=N2)COC=2C(=C(C(=O)N)C(=CC2)F)F | C14H8BrF2N3O2S
